US04060528
A mixture of 5.2 parts of p-(2-thenoyl)hydratropic acid, 4.8 parts of thionyl chloride and 32 parts of anhydrous benzene is stirred and refluxed for 3h. 30. The reaction mixture is evaporated and the residue is evaporated once more from benzene, yielding p-(2-thenoyl)hydratropoyl chloride as a residue.

reactant | p-(2-thenoyl)hydratropic acid | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C14H12O3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-(2-thenoyl)hydratropoyl chloride | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)Cl)C)C=C1 | C14H11ClO2S
